US03931168
1-(3-Chloro-4-methylcinnamamido)hydantoin
To 3-chloro-4-methylcinnamic acid (50 g, 0.25 mole) was added dropwise SOCl2 (140 ml). The mixture was heated under reflux for 45 min. after the addition was complete. After stirring at room temperature for 1 hour the SOCl2 was removed in vacuo. Dry benzene was added and then removed in vacuo. The acid chloride residue was treated with 1 -aminohydantoin hydrochloride (42 g, 0.275 mole) in 350 ml of pyridine, then heated under reflux for 2 hr. After cooling slightly, the reaction mixture was poured into a mixture of 200 ml of con HCl and 1500 ml of ice. After standing overnight the product was removed by filtration and washed with H2O. Recrystallization from CH3NO2 provided analytical material which melted at 271°-273° (28 g, 38%).

reactant | 3-chloro-4-methylcinnamic acid | 0.25 mole, 50 g | ClC=1C=C(C=CC(=O)O)C=CC1C | C10H9ClO2
reactant | SOCl2 | 140 ml | O=S(Cl)Cl | Cl2OS
reactant | 1 -aminohydantoin hydrochloride | 0.275 mole, 42 g | Cl.NN1C(=O)NC(=O)C1
reactant | HCl | 200 ml | Cl | ClH
solvent | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
product | 1-(3-Chloro-4-methylcinnamamido)hydantoin | ClC=1C=C(C=CC(=O)NN2C(=O)NC(=O)C2)C=CC1C | C13H12ClN3O3
